US05116941
After 1.75 g (2.6 mmols) of Z-PyroGlu-Ala-Arg(NO2)-CHA was suspended in a solvent mixture of 112.5 ml of MeOH, 27.7 ml of H2O and 9.8 ml of 1N-HCl, 1 g of palladium black was added to the suspension followed by catalytic reduction at 30° C. for 6 hours. After the reaction, the catalyst was filtered off and the solvent was removed by distillation under reduced pressure. The residue was purified through TOYOPEARL HW40F column using MeOH as a developing solvent to give 0.471 g (34.4%) of H-PyroGlu-Ala-Arg-CHA.HCl.

reactant | Z-PyroGlu-Ala-Arg(NO2) | 2.6 mmols, 1.75 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C22H29N7O9
reactant | MeOH | 112.5 ml | CO | CH4O
reactant | HCl | Cl | ClH
catalyst | palladium black | 1 g | [Pd] | Pd
solvent | H2O | 27.7 ml | O | H2O
product | H-PyroGlu-Ala-Arg | 0.471 g, 34.4% | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H24N6O5
